US08022208B2
Acetic acid (10 mL) and aqueous 30% hydrogen peroxide (452 μL) were added to methyl 4-pyridin-3-ylbenzoate (708 mg), followed by stirring at 70° C. for 18 hours. The reaction mixture was concentrated under reduced pressure, an aqueous saturated sodium hydrogencarbonate solution was added, followed by extraction with chloroform. The organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (methanol/chloroform=0% to 10%) to obtain methyl 4-(1-oxidopyridin-3-yl)benzoate (720 mg) as a white solid.

reactant | hydrogen peroxide | 452 μL | OO | H2O2
reactant | methyl 4-pyridin-3-ylbenzoate | 708 mg | N1=CC(=CC=C1)C1=CC=C(C(=O)OC)C=C1 | C13H11NO2
solvent | Acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | methyl 4-(1-oxidopyridin-3-yl)benzoate | 720 mg | [O-][N+]1=CC(=CC=C1)C1=CC=C(C(=O)OC)C=C1 | C13H11NO3
